US04820723
Ethyl 4-(1H-tetrazol-5-ylmethyl)benzoate
Ethyl 4-cyanomethylbenzoate (approximately 8 g) was dissolved in DME (10 ml). The solution was added tris(n-butyl)tin azide (5 ml) and the resultant solution was stirred and heated at 85° C. overnight. The solution was cooled to room temperature. The cooled solution was diluted with methanol then acidified with 1N hydrochloric acid. The acidified mixture was stirred for one hour then partitioned between ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated in vacuo.

reactant | Ethyl 4-cyanomethylbenzoate | approximately 8 g | C(#N)CC1=CC=C(C(=O)OCC)C=C1 | C11H11NO2
reactant | tris(n-butyl)tin azide | 5 ml | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | methanol | CO | CH4O
product | Ethyl 4-(1H-tetrazol-5-ylmethyl)benzoate | N1N=NN=C1CC1=CC=C(C(=O)OCC)C=C1 | C11H12N4O2
